US09034866B2
Methyl 9-bromo-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate (0.11 g) was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford methyl 4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate which was directly subjected to conditions described in General Procedure M to afford 5 mg and 5.6 mg (9% overall yield) after reverse phase purification then chiral separation. The absolute stereochemistry at the 4-hydroxyl substitution position for each isomer was not determined. M+1=414.0.

reactant | Methyl 9-bromo-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 0.11 g | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OC)(C)O)C=C1 | C14H12BrNO4S
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | methyl 4-hydroxy-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | OC1(COC2=C(C=3N=C(SC31)C(=O)OC)C=C(C=C2)C#C[C@]2(C(N(CC2)C)=O)O)C | C21H20N2O6S
